US07732463B2
1-Bromo-5-fluoro-2-(3-methoxy-phenylsulfanyl)-benzene (intermediate for 2m).
Prepared from 3-methoxy-benzenethiol and 2-bromo-4-fluoro-1-iodo-benzene.

reactant | 3-methoxy-benzenethiol | COC=1C=C(C=CC1)S | C7H8OS
reactant | 2-bromo-4-fluoro-1-iodo-benzene | BrC1=C(C=CC(=C1)F)I | C6H3BrFI
product | 1-Bromo-5-fluoro-2-(3-methoxy-phenylsulfanyl)-benzene | BrC1=C(C=CC(=C1)F)SC1=CC(=CC=C1)OC | C13H10BrFOS
